US09278944B2
To a solution of N-{[4-(benzyloxy)-2-naphthyl]methyl}cyclopropylamine (12.3 g) in dichloromethane (150 mL) were added triethylamine (5.93 mL) and di-t-butyl dicarbonate (9.29 g) under ice-cooling, and the mixture was stirred at room temperature for 3 hours. To the reaction solution was added saturated aqueous ammonium chloride solution under ice-cooling, and the mixture was extracted with chloroform. The organic layer was washed with water and saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=19/1→9/1) to give tert-butyl {[4-(benzyloxy)-2-naphthyl]methyl}cyclopropylcarbamate [REx(3-1)] (15.7 g) as a colorless powder.

reactant | N-{[4-(benzyloxy)-2-naphthyl]methyl}cyclopropylamine | 12.3 g | C(C1=CC=CC=C1)OC1=CC(=CC2=CC=CC=C12)CNC1CC1 | C21H21NO
reactant | triethylamine | 5.93 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 9.29 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | tert-butyl {[4-(benzyloxy)-2-naphthyl]methyl}cyclopropylcarbamate | 15.7 g | C(C1=CC=CC=C1)OC1=CC(=CC2=CC=CC=C12)CN(C(OC(C)(C)C)=O)C1CC1 | C26H29NO3
